US08865894B2
Step 22.5: (3aR*,6R*,6aR*)-6-Hydroxy-3-((2-nitrophenyl)sulfonyl)hexahydro-2H-cyclopenta[d]-oxazol-2-one
To a solution of tert-butyl (1R*,2S*,5S*)-6-oxabicyclo[3.1.0]hexan-2-yl((2-nitrophenyl)sulfonyl)-carbamate (2.0 g, 5.10 mmol) in MeOH (40 mL) was added Amberlyst 15 (4.0 g) and the resulting suspension was stirred for 1.5 h at 25° C. The reaction mixture was filtered and concentrated. The title compound was obtained after purification by flash chromatography (heptane-EtOAc 90:10→EtOAc) as a beige solid (1.24 g, 73%): TLC (heptane/EtOAc 1:2) Rf=0.36; tR=0.80 min (UPLC 1), tR, 0.77 min (LC-MS 3); ESI-MS: 346 [M+NH4]+ (LC-MS 3).

reactant | tert-butyl (1R*,2S*,5S*)-6-oxabicyclo[3.1.0]hexan-2-yl((2-nitrophenyl)sulfonyl)-carbamate | 5.10 mmol, 2.0 g | [C@H]12[C@H](CC[C@@H]2O1)N(C(OC(C)(C)C)=O)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C16H20N2O7S
solvent | MeOH | 40 mL | CO | CH4O
product | (3aR*,6R*,6aR*)-6-Hydroxy-3-((2-nitrophenyl)sulfonyl)hexahydro-2H-cyclopenta[d]-oxazol-2-one | O[C@@H]1CC[C@H]2N(C(O[C@H]21)=O)S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-] | C12H12N2O7S
